US07338960B2
[4′-(Trifluoromethyl)-3-biphenylyl]methanol
A mixture 3-bromobenzyl alcohol (500 mg, 2.70 mmol), 4-(triflouromethyl)benzeneboronic acid (1.01 g, 5.35 mmol), Pd(PPh3)4 (68 mg, 0.06 mmol) and Na2CO3 (740 mg, 7.02 mmol) in a mixture of DME (20 mL) and water (10 mL) was heated at reflux for 3 hours. The mixture was allowed to cool to rt, and then partitioned between EtOAc and water. The layers were separated and the aqueous re-extracted with EtOAc (2×) and the combined organic layer washed with water and then brine, dried (Na2SO4), filtered and reduced to give an oil. Purification by flash chromatography (silica) eluting with cyclohexane:EtOAc (5:2) afforded the title compound as a clear oil which crystallised on standing (654 mg).

reactant | 3-bromobenzyl alcohol | 2.70 mmol, 500 mg | BrC=1C=C(CO)C=CC1 | C7H7BrO
reactant | 4-(triflouromethyl)benzeneboronic acid | 5.35 mmol, 1.01 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 7.02 mmol, 740 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.06 mmol, 68 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4′-(Trifluoromethyl)-3-biphenylyl]methanol | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)CO)(F)F | C14H11F3O
